* File: function.pex.netlist.pex
* Created: Thu Apr 20 21:06:02 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FUNCTION%A 4 8 17
c0 17 0 0.0899536f
c1 11 0 0.142408f
c2 8 0 0.765111f
c3 4 0 0.342196f
r4 11 14 9.93807
r5 11 13 9.96085
r6 11 17 13.2552
r7 8 14 282.5
r8 4 13 108.5
.ends

.subckt PM_FUNCTION%B 4 8 17
c0 17 0 0.12115f
c1 11 0 0.156984f
c2 8 0 0.78266f
c3 4 0 0.357659f
r4 11 14 9.92575
r5 11 13 9.94868
r6 11 17 13.2552
r7 8 14 282.5
r8 4 13 108.5
.ends

.subckt PM_FUNCTION%GND 7 10 18 23 24
c0 27 0 0.272051f
c1 21 0 0.181657f
c2 8 0 0.0988178f
c3 7 0 0.0373308f
r4 26 27 8.16635
r5 24 26 6.75
r6 23 26 2.295
r7 20 21 8.16635
r8 18 20 2.295
r9 12 13 8.16635
r10 10 12 0.116379
r11 9 27 0.580087
r12 8 13 0.325652
r13 8 9 0.039111
r14 5 13 0.175
r15 5 7 0.0296412
r16 4 21 0.580087
r17 4 7 0.00770322
.ends

.subckt PM_FUNCTION%C 4 8 17
c0 17 0 0.133134f
c1 11 0 0.153668f
c2 8 0 0.68477f
c3 4 0 0.3343f
r4 11 14 9.95046
r5 11 13 9.9731
r6 11 17 13.2552
r7 8 14 282.5
r8 4 13 108.5
.ends

.subckt PM_FUNCTION%D 4 8 17
c0 17 0 0.12831f
c1 11 0 0.147917f
c2 8 0 0.645049f
c3 4 0 0.342014f
r4 11 14 9.93807
r5 11 13 9.96085
r6 11 17 13.2552
r7 8 14 245
r8 4 13 108.5
.ends

.subckt PM_FUNCTION%Y 7 16 21 26 27
c0 30 0 0.202313f
c1 24 0 0.16774f
c2 19 0 0.173166f
c3 13 0 0.00937313f
c4 10 0 0.0701726f
c5 9 0 0.0271583f
c6 8 0 0.144321f
c7 7 0 0.370009f
c8 3 0 0.0214368f
c9 2 0 0.0502689f
r10 29 30 8.16635
r11 27 29 2.295
r12 26 29 2.295
r13 23 24 2.72212
r14 21 23 0.765
r15 18 19 1.81474
r16 16 18 0.51
r17 15 30 0.300087
r18 14 24 0.644913
r19 12 19 0.791
r20 11 13 0.0296412
r21 10 14 0.039111
r22 10 11 0.193261
r23 8 15 0.039111
r24 8 9 0.403261
r25 5 13 0.00770322
r26 5 7 0.522565
r27 4 9 0.039111
r28 4 7 0.723739
r29 3 12 0.039111
r30 2 13 0.0296412
r31 2 3 0.199348
.ends

.subckt PM_FUNCTION%E 4 8 17
c0 17 0 0.0905055f
c1 11 0 0.144865f
c2 8 0 0.62996f
c3 4 0 0.341752f
r4 11 14 9.9881
r5 11 13 10.0103
r6 11 17 13.2552
r7 8 14 245
r8 4 13 108.5
.ends

.subckt PM_FUNCTION%noxref_8 10 11 15 16 20
c0 23 0 0.18302f
c1 19 0 0.261766f
c2 14 0 0.214174f
c3 5 0 0.0302792f
c4 4 0 0.245708f
c5 3 0 0.0198543f
c6 2 0 0.198837f
r7 22 23 8.16635
r8 20 22 2.295
r9 18 19 8.16635
r10 16 18 2.295
r11 15 18 18.045
r12 13 14 8.16635
r13 11 13 2.295
r14 10 13 2.295
r15 9 23 0.55513
r16 8 19 0.300087
r17 7 19 0.55513
r18 6 14 0.300087
r19 5 7 0.039111
r20 4 9 0.039111
r21 4 5 0.882609
r22 3 6 0.039111
r23 2 8 0.039111
r24 2 3 0.500652
.ends

.subckt PM_FUNCTION%VDD 9 12 13 18
c0 21 0 0.431178f
c1 16 0 0.295285f
c2 10 0 0.372462f
c3 9 0 0.0395344f
r4 24 25 8.16635
r5 20 21 2.72212
r6 18 20 0.765
r7 15 16 1.81474
r8 13 15 0.51
r9 12 24 0.116379
r10 11 21 1.48491
r11 10 25 1.48826
r12 10 11 0.039111
r13 7 25 0.175
r14 7 9 0.035
r15 6 16 1.33883
r16 6 9 0.035
.ends

.subckt PM_FUNCTION%noxref_10 1 2
r0 1 2 1.02
.ends

.subckt PM_FUNCTION%noxref_11 1 2
r0 1 2 2.01
.ends

.subckt PM_FUNCTION%noxref_12 1 2
r0 1 2 1.53
.ends

